US05001243
2-(2-Hydroxyethylthio)naphthacene-5,12-dione
1 g (3.62 mmol) of 2-fluoronaphthacene-5,12-dione (prepared according to U.S. Pat. No. 4,522,754), 0.31 g (3.98 mmol) of 2-mercaptoethanol, 1.50 g (10.86 mmol) of potassium carbonate and 10 ml of DMSO are stirred at 25° C. for 3 minutes. The mixture is poured into water. The crystals are filtered off and dissolved in tetrahydrofuran/toluene, the solution dried over sodium sulfate and evaporated. The residue is recrystallized from THF/toluene/pentane. Yield 1 g (83%); melting point 195°-196° C.

reactant | 2-fluoronaphthacene-5,12-dione | 3.62 mmol, 1 g | FC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C18H9FO2
reactant | 2-mercaptoethanol | 3.98 mmol, 0.31 g | SCCO | C2H6OS
reactant | potassium carbonate | 10.86 mmol, 1.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(2-Hydroxyethylthio)naphthacene-5,12-dione | OCCSC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1)=O)=O | C20H14O3S
